** Name: SimpleOpAmp86

.MACRO SimpleOpAmp86 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=8e-6 W=34e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=67e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=36e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=12e-6
mNormalTransistorNmos7 FirstStageYout1 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=8e-6 W=34e-6
mNormalTransistorPmos8 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos9 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=46e-6
mNormalTransistorPmos10 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=458e-6
mNormalTransistorPmos11 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=122e-6
mNormalTransistorPmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=122e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp86

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 0.481001 mW
** Area: 3634 (mu_m)^2
** Transit frequency: 5.38301 MHz
** Transit frequency with error factor: 5.38265 MHz
** Slew rate: 6.90226 V/mu_s
** Phase margin: 88.2356°
** CMRR: 150 dB
** VoutMax: 4.51001 V
** VoutMin: 0.860001 V
** VcmMax: 4.10001 V
** VcmMin: 0.450001 V


** Expected Currents: 
** NormalTransistorNmos: 16.4581 muA
** NormalTransistorPmos: -6.92599 muA
** NormalTransistorPmos: -26.3779 muA
** NormalTransistorPmos: -26.3789 muA
** NormalTransistorNmos: 26.3771 muA
** NormalTransistorNmos: 26.3781 muA
** DiodeTransistorNmos: 26.3771 muA
** NormalTransistorPmos: -69.2139 muA
** NormalTransistorPmos: -26.3779 muA
** NormalTransistorPmos: -26.3779 muA
** DiodeTransistorNmos: 6.92501 muA
** DiodeTransistorPmos: -16.4589 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.25301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.585001  V
** outVoltageBiasXXpXX1: 2.35001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21901  V
** innerTransistorStack2Load2: 0.675001  V
** out1: 1.26601  V
** sourceGCC1: 3.06401  V
** sourceGCC2: 3.06401  V


.END