** Name: SimpleOpAmp89

.MACRO SimpleOpAmp89 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=32e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=24e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=22e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=3e-6 W=4e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=26e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=42e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=263e-6
mNormalTransistorPmos11 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=3e-6 W=29e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mNormalTransistorPmos13 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=200e-6
mNormalTransistorPmos14 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=3e-6 W=29e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=5e-6 W=419e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=5e-6 W=419e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp89

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 1.22401 mW
** Area: 6527 (mu_m)^2
** Transit frequency: 7.79501 MHz
** Transit frequency with error factor: 7.79487 MHz
** Slew rate: 9.21675 V/mu_s
** Phase margin: 81.3601°
** CMRR: 146 dB
** VoutMax: 4.08001 V
** VoutMin: 0.300001 V
** VcmMax: 4 V
** VcmMin: 0.0700001 V


** Expected Currents: 
** NormalTransistorNmos: 11.9551 muA
** NormalTransistorPmos: -11.0789 muA
** NormalTransistorPmos: -121.417 muA
** NormalTransistorPmos: -40.1899 muA
** NormalTransistorPmos: -40.1899 muA
** NormalTransistorNmos: 40.1891 muA
** NormalTransistorNmos: 40.1881 muA
** NormalTransistorNmos: 40.1891 muA
** NormalTransistorNmos: 40.1881 muA
** NormalTransistorPmos: -92.3329 muA
** NormalTransistorPmos: -40.1889 muA
** NormalTransistorPmos: -40.1889 muA
** DiodeTransistorNmos: 11.0781 muA
** DiodeTransistorNmos: 121.418 muA
** DiodeTransistorPmos: -11.9559 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.15901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.600001  V
** outVoltageBiasXXpXX1: 1.95601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22701  V
** innerTransistorStack1Load2: 0.150001  V
** innerTransistorStack2Load2: 0.150001  V
** out1: 0.555001  V
** sourceGCC1: 3.00401  V
** sourceGCC2: 3.00401  V


.END