** Name: SimpleOpAmp93

.MACRO SimpleOpAmp93 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=12e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=96e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=7e-6
mNormalTransistorNmos7 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=169e-6
mNormalTransistorNmos8 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=96e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=32e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=32e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=144e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=29e-6
mNormalTransistorPmos13 FirstStageYout1 FirstStageYinnerTransistorStack2Load2 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp93

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 0.842001 mW
** Area: 1853 (mu_m)^2
** Transit frequency: 12.8371 MHz
** Transit frequency with error factor: 12.8368 MHz
** Slew rate: 15.0931 V/mu_s
** Phase margin: 82.506°
** CMRR: 155 dB
** VoutMax: 3.29001 V
** VoutMin: 0.530001 V
** VcmMax: 3.55001 V
** VcmMin: 0.790001 V


** Expected Currents: 
** NormalTransistorNmos: 6.33201 muA
** NormalTransistorPmos: -30.1739 muA
** NormalTransistorNmos: 60.9501 muA
** NormalTransistorNmos: 60.9491 muA
** NormalTransistorPmos: -60.9509 muA
** NormalTransistorPmos: -60.9499 muA
** DiodeTransistorPmos: -60.9509 muA
** NormalTransistorNmos: 152.071 muA
** NormalTransistorNmos: 60.9491 muA
** NormalTransistorNmos: 60.9491 muA
** DiodeTransistorNmos: 30.1731 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -6.33299 muA


** Expected Voltages: 
** ibias: 0.636001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.09401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerTransistorStack2Load2: 3.44401  V
** out1: 2.72601  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END