** Name: SimpleOpAmp94

.MACRO SimpleOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=19e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=20e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=26e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=29e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=17e-6
mNormalTransistorNmos9 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=95e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=29e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=9e-6 W=87e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=9e-6 W=87e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=8e-6 W=51e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=43e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=20e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp94

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 0.504001 mW
** Area: 3561 (mu_m)^2
** Transit frequency: 3.89801 MHz
** Transit frequency with error factor: 3.89838 MHz
** Slew rate: 6.19907 V/mu_s
** Phase margin: 87.6626°
** CMRR: 135 dB
** VoutMax: 4.04001 V
** VoutMin: 0.450001 V
** VcmMax: 3.73001 V
** VcmMin: 0.710001 V


** Expected Currents: 
** NormalTransistorNmos: 11.3421 muA
** NormalTransistorNmos: 17.3471 muA
** NormalTransistorPmos: -25.3049 muA
** NormalTransistorNmos: 18.4121 muA
** NormalTransistorNmos: 18.4121 muA
** DiodeTransistorPmos: -18.4129 muA
** NormalTransistorPmos: -18.4129 muA
** NormalTransistorPmos: -18.4129 muA
** NormalTransistorNmos: 62.1291 muA
** NormalTransistorNmos: 18.4121 muA
** NormalTransistorNmos: 18.4121 muA
** DiodeTransistorNmos: 25.3041 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -11.3429 muA
** DiodeTransistorPmos: -17.3479 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.44601  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.86001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerTransistorStack2Load2: 4.41101  V
** out1: 3.87801  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END