** Name: SimpleOpAmp115

.MACRO SimpleOpAmp115 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=11e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=37e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=39e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=23e-6
mNormalTransistorNmos8 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=225e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=217e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=39e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=13e-6
mNormalTransistorPmos13 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=3e-6 W=162e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp115

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 0.839001 mW
** Area: 2465 (mu_m)^2
** Transit frequency: 5.22801 MHz
** Transit frequency with error factor: 5.22761 MHz
** Slew rate: 14.212 V/mu_s
** Phase margin: 87.0896°
** CMRR: 147 dB
** VoutMax: 4.04001 V
** VoutMin: 0.600001 V
** VcmMax: 4.29001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 15.0481 muA
** NormalTransistorPmos: -93.3249 muA
** NormalTransistorNmos: 24.7621 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorPmos: -24.7629 muA
** NormalTransistorPmos: -24.7619 muA
** DiodeTransistorPmos: -24.7629 muA
** NormalTransistorNmos: 142.848 muA
** NormalTransistorNmos: 142.847 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorNmos: 24.7611 muA
** DiodeTransistorNmos: 93.3241 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -15.0489 muA


** Expected Voltages: 
** ibias: 1.14201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.64101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.19501  V
** innerStageBias: 0.587001  V
** out1: 3.47101  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END